US06780855B2
A solution of 486 mg of 11β-fluor-7α-(5-iodopentyl)-estra-1,3,5(10)-triene-3,17β-diol in 10 ml of 1-methyl-2-pyrrolidinone is stirred with 540 mg of (3-benzyloxy-propyl)-methyl-amine for 3 hours at a bath temperature of 80° C. Then, the batch is added to saturated sodium chloride solution, extracted with ether, dried on sodium sulfate, concentrated by evaporation in a vacuum and chromatographed on silica gel with methylene chloride/methanol/ammonia. 237 mg of 7α-{5-[(3-benzyloxy-propyl)-methyl-amino]-pentyl}-11β-fluor-estra-1,3,5(10)-triene-3,17β-diol is obtained as a foam [α]D=+48° (c=0.5 in CHCl3).

reactant | 11β-fluor-7α-(5-iodopentyl)-estra-1,3,5(10)-triene-3,17β-diol | 486 mg | F[C@@H]1[C@@H]2C=3C=CC(=CC3C[C@H]([C@H]2[C@@H]2CC[C@@H]([C@@]2(C)C1)O)CCCCCI)O | C23H32FIO2
reactant | (3-benzyloxy-propyl)-methyl-amine | 540 mg | C(C1=CC=CC=C1)OCCCNC | C11H17NO
reactant | sodium chloride | [Cl-].[Na+]
solvent | 1-methyl-2-pyrrolidinone | 10 ml | CN1C(CCC1)=O | C5H9NO
product | 7α-{5-[(3-benzyloxy-propyl)-methyl-amino]-pentyl}-11β-fluor-estra-1,3,5(10)-triene-3,17β-diol | 237 mg | C(C1=CC=CC=C1)OCCCN(CCCCC[C@H]1[C@H]2[C@@H]3CC[C@@H]([C@@]3(C)C[C@@H]([C@@H]2C=2C=CC(=CC2C1)O)F)O)C | C34H48FNO3
